US07414076B2
Preparation of 4-(tert-butylamino)-2-butanesulfonic acid (Compound ES)
To a solution of tert-butylamine (1.0 mL, 9.5 mmol) in tetrahydrofuran (15 mL) was added 2,4-butane sultone (1.33 g, 10.0 mmol). The mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature. The solid product was collected by filtration, washed with THF (2×20 mL), and dried in vacuo; affording compound ES: 1H NMR (DMSO, 500 MHz) δ ppm 2.97 (t, 2H, J=6.6 Hz), 2.62 (m, 1H), 1.95 (m, 0.5H), 1.750 (m, 0.5H), 1.22 (s, 9H), 1.12 (d, 3H, J=6.8 Hz). 13C NMR (DMSO, 125 MHz) δ ppm 56.17, 53.15, 29.87, 25.87, 17.05. ES-MS 207 (M−1).

reactant | tert-butylamine | 9.5 mmol, 1.0 mL | C(C)(C)(C)N | C4H11N
reactant | 2,4-butane sultone | 10.0 mmol, 1.33 g | CC1CCOS1(=O)=O | C4H8O3S
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(tert-butylamino)-2-butanesulfonic acid | C(C)(C)(C)NCCC(C)S(=O)(=O)O | C8H19NO3S
